US05604237
3-Chloro 4-nitrophenol
Concentrated nitric acid (10 ml) in acetic acid (30 ml) was added dropwise to a cooled solution of 3-chlorophenol (10 g) in acetic acid (10 ml). After 1 hour at -5°, the mixture was poured onto ice, extracted with ether, dried over sodium sulfate and evaporated. The residue was then pun fled by column chromatography eluting with hexane-ethyl acetate (85:15) to give the title compound (9 g). M.p. 120°.

reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-chlorophenol | 10 g | ClC=1C=C(C=CC1)O | C6H5ClO
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro 4-nitrophenol | 9 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
